US08222219B2
2,4-dimethylbenzoic acid (20.0 g) was suspended in chloroform (100 ml), and thereto were added oxalyl chloride (6.8 ml) and N,N-dimethylformamide (2 drops). The mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure, and the residue was dissolved in methanol (200 ml). The mixture was stirred at room temperature for 3 hours. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate. The mixture was washed successively with a saturated aqueous sodium hydrogen carbonate solution and brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure to give methyl 2,4-dimethylbenzoate as pale yellow oil, which was used in the subsequent step without further purification. (2) To a mixture of the above methyl 2,4-dimethylbenzoate (19.75 g) and activated aluminum neutral oxide (120 g) was added dropwise bromine (9.25 ml) while stirring at room temperature. The mixture was stirred at room temperature for 8 hours, and diluted with diethyl ether (1000 ml). Insoluble materials were filtered off, and washed with diethyl ether (500 ml). The combined filtrate was washed successively with 10% aqueous sodium thiosulfate solution, a saturated aqueous sodium hydrogen carbonate solution and brine. The filtrate was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was crystallized from methanol (40 ml) to give methyl 5-bromo-2,4-dimethylbenzoate (6.34 g) as colorless crystals. APCI-Mass m/Z 243/245 (M+H). (3) The above methyl 5-bromo-2,4-dimethylbenzoate was treated in a manner similar to Reference Example 4-(1) to give 5-bromo-2,4-dimethylbenzoic acid as colorless crystals. ESI-Mass m/Z 227/229 (M−H) (4) The above 5-bromo-2,4-dimethylbenzoic acid and 2-phenylthiophene were treated in a manner similar to Reference Example 5 to give 5-bromo-2,4-dimethyl-1-(5-phenyl-2-thienylmethyl)benzene as colorless crystals. APCI-Mass m/Z 357/359 (M+H).

reactant | 5-bromo-2,4-dimethylbenzoic acid | BrC=1C(=CC(=C(C(=O)O)C1)C)C | C9H9BrO2
reactant | 2-phenylthiophene | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
product | 5-bromo-2,4-dimethyl-1-(5-phenyl-2-thienylmethyl)benzene | BrC=1C(=CC(=C(C1)CC=1SC(=CC1)C1=CC=CC=C1)C)C | C19H17BrS
